US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (581 mg, 1.52 mmol) in N,N-dimethylacetamide (5 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (166 μL, 1.83 mmol), and the mixture was stirred at room temperature for 1 hr. Cyclopropanecarbonyl chloride (492 μL, 0.966 mmol) was further added and the mixture was stirred for 15 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, ethyl acetate) and recrystallized from ethyl acetate to give the title compound (485 mg, 71%) as a white solid.

reactant | N-{5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.52 mmol, 581 mg | NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)=N1 | C18H16FN7O2
reactant | cyclopropanecarbonyl chloride | 1.83 mmol, 166 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Cyclopropanecarbonyl chloride | 0.966 mmol, 492 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 485 mg, 71% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)=N1 | C22H20FN7O3
